US04560692
(b) 2-(4-fluorophenyl)-4-quinolinecarbonyl chloride
A mixture of 16.5 g of 2-(4-fluorophenyl-4-quinolinecarboxylic acid, 100 ml of thionyl chloride, and 50 ml of toluene was stirred and heated under reflux for 4 hr. The reaction mixture was the concentrated in vacuo, the residue was treated with more toluene, and the mixture again concentrated n vacuo. The residue was washed with ether to give 16 g of the above-named compound as a yellow solid.

reactant | 4-fluorophenyl-4-quinolinecarboxylic acid | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H10FNO2
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-fluorophenyl)-4-quinolinecarbonyl chloride | 16 g | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)Cl | C16H9ClFNO
